US09102614B2
Preparation of ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3,4-dimethylnaphthalen-2-yl)acetate:
A suspension of ethyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (25 mg, 51 μmol), trimethylboroxine (21 μL, 0.153 mmol), PdCl2(dppf) (3.7 mg, 5.1 μmol), K2CO3 (70 mg, 0.510 mmol), PhMe (500 μL), EtOH (absolute, 250 μL), and H2O (250 μL) was stirred in a sealed vessel at 100° C. for 3 h. The reaction was cooled to 23° C., diluted with H2O and extracted with EtOAc (3×). Combined organic phases were dried (Na2SO4), filtered, and concentrated, giving crude product. (Yield was not found). 1H NMR (400 MHz, CD3OD) δ 8.08 (d, J=8.2 Hz, 1H), 7.48-7.44 (m, 3H), 7.29-7.26 (m, 4H), 5.15 (s, 1H), 4.20-4.12 (m, 2H), 2.65 (s, 3H), 2.55 (s, 3H), 1.21 (t, J=7 Hz, 3H), 1.00 (s, 9H).

reactant | ethyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 51 μmol, 25 mg | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | trimethylboroxine | 0.153 mmol, 21 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 0.510 mmol, 70 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | PhMe | 500 μL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
catalyst | PdCl2(dppf) | 5.1 μmol, 3.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 250 μL | O | H2O
solvent | EtOH | 250 μL | CCO | C2H6O
product | ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3,4-dimethylnaphthalen-2-yl)acetate | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC=C2C(=C1C)C)C1=CC=C(C=C1)Cl | C26H29ClO3
